*
*NGSPICE simulation script lab1
*Group 1
*
.options savecurrents

*supply voltage

*input voltage source
Vs 1 0 0
Vx 6 8 5.930624
R1 1 2 1.00676538952k
R2 3 2 2.03303206695k
R3 2 5 3.03391315228k
R4 5 0 4.00312807132k
R5 5 6 3.13101052342k
R6 0 9 2.0938993245k
R7 7 8 1.01774389701k
Ve 9 7 0
Gb 6 3 (2,5) 7.2727641018m
Hc 5 8 Ve 8.17006533463k

.model group 1

.control

op

echo "**************************"
echo "Operating point"
echo "**************************"

echo "op2_TAB"
print all
echo "op2_END"
quit

.endc

.end
